US09255110B2
A mixture of 3-(1-azido-ethyl)-1-(4-chloro-2-nitro-phenyl)-pyrrolidine (214 mg, 0.7 mmol), triphenylphosphine (500 mg) and water (0.171 mL) in tetrahydrofuran (20 mL) was heated at 50° C. overnight. The resulting mixture was evaporated under reduced pressure; the residue was diluted with ethyl acetate, washed twice with water and once with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (DCM/MeOH) to give 127 mg (65% yield) of 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethylamine.

reactant | 3-(1-azido-ethyl)-1-(4-chloro-2-nitro-phenyl)-pyrrolidine | 0.7 mmol, 214 mg | N(=[N+]=[N-])C(C)C1CN(CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C12H14ClN5O2
reactant | triphenylphosphine | 500 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 0.171 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethylamine | 127 mg, 65% yield | ClC1=CC(=C(C=C1)N1CC(CC1)C(C)N)[N+](=O)[O-] | C12H16ClN3O2
